US07932272B2
To a solution of 3-benzyloxybenzyl alcohol (3.0 g, 14.0 mmol) in dichloromethane (30 mL) was added methanesulfonyl chloride (1.39 mL, 16.8 mmol) and triethylamine (2.34 mL, 16.8 mmol) on an ice bath, and the solution was stirred overnight. The reaction solution was diluted with dichloromethane, washed with aqueous solution of 5% sodium bicarbonate, and then, dried over anhydrous magnesium sulfate. The solvent was evaporated, then, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1), and 1-benzyloxy-3-chloromethyl-benzene (2.2 g, 67%) was obtained as a colorless oil.

reactant | 3-benzyloxybenzyl alcohol | 14.0 mmol, 3.0 g | C(C1=CC=CC=C1)OC=1C=C(CO)C=CC1 | C14H14O2
reactant | methanesulfonyl chloride | 16.8 mmol, 1.39 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 16.8 mmol, 2.34 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-benzyloxy-3-chloromethyl-benzene | 2.2 g, 67% | C(C1=CC=CC=C1)OC1=CC(=CC=C1)CCl | C14H13ClO
